US07470699B2
Preparation of 4-[5-Methyl-6-(4-methyl-6-morpholin-4-yl-pyridin-3-ylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A102)
A solution of 4-[6-(6-chloro-4-methyl-pyridin-3-ylamino)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (223 mg, 0.53 mmol) in 4.5 mL morpholine was reacted under microwave irradiation at 180° C. for 16 hours. Mixture was concentrated and purified by HPLC to give Compound A102 as a white solid (200 mg, 74%). 1H NMR (MeOH-d4, 400 MHz) δ 1.16-1.18 (d, 6H), 1.64-1.71 (m, 2H), 1.89-1.98 (m, 2H), 2.10 (s, 3H), 2.28 (s, 3H), 3.31-3.38 (m, 2H), 3.61-3.69 (m, 6H), 3.78-3.80 (m, 4H), 4.77-4.82 (m, 1H), 5.28-5.35 (m, 1H), 7.34 (s, 1H), 7.98 (s, 1H), 8.16 (s, 1H). Exact mass calculated for C24H34N6O4 470.26, found 471.4 (MH+).

reactant | 4-[6-(6-chloro-4-methyl-pyridin-3-ylamino)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.53 mmol, 223 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)NC=1C=NC(=CC1C)Cl | C20H26ClN5O3
reactant | morpholine | 4.5 mL | N1CCOCC1 | C4H9NO
product | 4-[5-Methyl-6-(4-methyl-6-morpholin-4-yl-pyridin-3-ylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 200 mg, 74% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)NC=1C=NC(=CC1C)N1CCOCC1 | C24H34N6O4
